US07405228B2
Preparation of (R)-{3-[4-(4-cyanomethypiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-alcohol
The suspension of (R)-{3-[4-(4-cyanomethylidenepiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-alcohol (0.11 mmol), 10% palladium on carbon (0.1 g) tetrahydrofuran was stirred under atmospheric hydrogen pressure at 30° C. for overnight.

reactant | (R)-{3-[4-(4-cyanomethylidenepiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-alcohol | 0.11 mmol | C(#N)C=C1CCN(CC1)C1=CC=C(C=C1)N1C(O[C@H](C1)CO)=O | C17H19N3O3
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
product | (R)-{3-[4-(4-cyanomethypiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-alcohol | C(#N)CC1CCN(CC1)C1=CC=C(C=C1)N1C(O[C@H](C1)CO)=O | C17H21N3O3
